US08217035B2
To a solution of 10% acetic acid in methanol was added 4-(2-methoxy-4-nitrophenoxy)piperidine (148 mg, 0.59 mmol, 1 eq), anhydrous acetone (5 eq), and sodium cyanoborohydride (1.5 eq). The solution was stirred at room temperature for 24 h. Additional anhydrous acetone (5 eq) and sodium cyanoborohydride (1.5 eq) were added and the reaction was stirred for 24 h. The solvent was evaporated, the residue was brought to pH 10 with aqueous sodium carbonate and extracted with EtOAc. The organic layer was washed with water, brine, dried with magnesium sulfate and evaporated to afford 1-isopropyl-4-(2-methoxy-4-nitrophenoxy)piperidine as a yellow oil (163 mg, 97%). LC/MS (m/z): 295.2 (MH+), Rt 1.96 minutes.

reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | 4-(2-methoxy-4-nitrophenoxy)piperidine | 0.59 mmol, 148 mg, 1 eq | COC1=C(OC2CCNCC2)C=CC(=C1)[N+](=O)[O-] | C12H16N2O4
reactant | acetone | 5 eq | CC(=O)C | C3H6O
reactant | sodium cyanoborohydride | 1.5 eq | C(#N)[BH3-].[Na+]
reactant | acetone | 5 eq | CC(=O)C | C3H6O
reactant | sodium cyanoborohydride | 1.5 eq | C(#N)[BH3-].[Na+]
solvent | methanol | CO | CH4O
product | 1-isopropyl-4-(2-methoxy-4-nitrophenoxy)piperidine | 163 mg, 97% | C(C)(C)N1CCC(CC1)OC1=C(C=C(C=C1)[N+](=O)[O-])OC | C15H22N2O4
